US06716863B2
(iii) 4-[4-(benzyloxy)phenyl]-1-butanol
In an argon atmosphere, dry DMF (115 ml) was added to 4-(4-hydroxybutyl)phenol (9.43 g) and 65% oily sodium hydride (2.4 g), followed by stirring for 15 minutes. Next, under ice cooling and stirring, a solution of benzyl bromide (9.87 g) in dry dimethylformamide (29.5 ml) was added drop by drop, followed by stirring at the same temperature for 2 hours. After ice water and a 1 N solution of potassium hydrogen sulfate were added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, after which it was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure; the residue was purified by silica gel column chromatography to yield the titled compound (10.67 g) as a colorless crystalline powder.

reactant | 4-(4-hydroxybutyl)phenol | 9.43 g | OCCCCC1=CC=C(C=C1)O | C10H14O2
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | benzyl bromide | 9.87 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dimethylformamide | 29.5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 115 ml | CN(C)C=O | C3H7NO
product | 4-[4-(benzyloxy)phenyl]-1-butanol | 10.67 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCO | C17H20O2
